US06908939B2
667 g (3 mol) of di-tert-butyl dicarbonate are introduced into a 10 liter round-bottomed flask. 4.5 liters of a 2 M sodium hydroxide solution and 453 g (2.58 mol) of 3-bromoaniline are added under nitrogen. The mixture is heated under reflux for 4.5 hours. The reaction medium is extracted with ethyl acetate, the organic phase is washed with water and then evaporated under vacuum. The solid obtained is taken up, with stirring, in heptane. After filtration and drying, 609 g (86%) of tert-butyl (3-bromophenyl)carbamate are obtained in the form of a white powder.

reactant | di-tert-butyl dicarbonate | 3 mol, 667 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | 3-bromoaniline | 2.58 mol, 453 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | heptane | CCCCCCC | C7H16
product | tert-butyl (3-bromophenyl)carbamate | 609 g, 86% | BrC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H14BrNO2
